US04474754
15. Preparation of Z-Ser-Leu-Ser-NHNH2
2.00 Grams of Z-Ser-Leu-Ser-OCH3 was dissolved in 40 ml of methanol, then 1.10 ml of 100%-NH2NH2.H2O was added to the solution under ice-cooled condition, and the reaction mixture was allowed to stand at a room temperature for 18 hours. After completion of the reaction, the solvent was removed by distillation under a reduced pressure, and the residue obtained was solidified by adding ether, then an excess of NH2NH2.H2O was removed by adding water, then reprecipitated from methanol-ethyl acetate to obtain 1.91 g of the desired product.

reactant | Z-Ser-Leu-Ser-OCH3 | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C21H31N3O8
reactant | NH2NH2.H2O | NN.O
reactant | ether | CCOCC | C4H10O
solvent | methanol | 40 ml | CO | CH4O
product | Z-Ser-Leu-Ser-NHNH2 | 1.91 g | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C20H31N5O7
